US06818644B1
9-{4-[4-(4-Benzyloxy-phenyl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide
Prepared analogously to Example 2 b from 1-(4-benzyloxy-phenyl)-piperazine hydrochloride and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide.

reactant | 1-(4-benzyloxy-phenyl)-piperazine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1CCNCC1
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO
product | 9-{4-[4-(4-Benzyloxy-phenyl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-(2,2,2-trifluoroethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2C=2C=CC=CC12)CCCCN1CCN(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)(F)F | C37H38F3N3O2
